US07563805B2
Methyl 3-methyl-5-oxo-1-[(R)-1-phenylethyl]pyrrolidin-3-yl-carboxylate
To a solution of methyl(3R)-5-oxo-1-[(R)-1-phenylethyl]pyrrolidin-3-yl-carboxylate (49.5 g, 200 mmol) and methyl iodide (37.4 mL, 600 mmol) in dimethylformamide (1 L), sodium hydride (in oil; content, 55%; 11.35 g: 260 mmol) was gradually added in 5 minutes at room temperature. After stirring at room temperature for 2 hours, methyl iodide (24.9 mL, 400 mmol) and sodium hydride (in oil; content, 55%; 6.11 g; 140 mmol) were further added, and the mixture was stirred for another 4 hours. The reaction mixture was added to 0.5N hydrochloric acid (1 L) in an ice bath, and extracted with ethyl acetate (2 L+1 L). The organic layers were combined and washed with water (1 L×2) and saturated aqueous solution of sodium chloride (1 L), and dried with anhydrous sodium sulfate. After removing the dessicating agent by filtration, the solvent was removed by distillation under reduced pressure. The thus obtained crude product was purified by silica gel column chromatography (hexane:ethyl acetate, 80:20→67:33→50:50→33:67) to obtain stereoisomers at position 3 of the title compound (stereoisomer A: 19.86 g (76.0 mmol, 38%) as a pale yellow oil, stereoisomer B: 20.22 g (77.4 mmol, 39%) as a pale yellow solid, and a mixture of stereoisomers A and B: 9.69 g (37.1 mmol, 19%) as a pale yellow oil.

reactant | methyl(3R)-5-oxo-1-[(R)-1-phenylethyl]pyrrolidin-3-yl-carboxylate | 200 mmol, 49.5 g | O=C1C[C@H](CN1[C@H](C)C1=CC=CC=C1)C(=O)OC | C14H17NO3
reactant | methyl iodide | 600 mmol, 37.4 mL | CI | CH3I
reactant | sodium hydride | 260 mmol, 11.35 g | [H-].[Na+]
reactant | methyl iodide | 400 mmol, 24.9 mL | CI | CH3I
reactant | sodium hydride | 140 mmol, 6.11 g | [H-].[Na+]
reactant | hydrochloric acid | 0.5N, 1 L | Cl | ClH
solvent | dimethylformamide | 1 L | CN(C=O)C | C3H7NO
product | Methyl 3-methyl-5-oxo-1-[(R)-1-phenylethyl]pyrrolidin-3-yl-carboxylate | CC1(CN(C(C1)=O)[C@H](C)C1=CC=CC=C1)C(=O)OC | C15H19NO3
